US07297816B2
(±)-2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-N-[2-(4-chloro-phenyl)-propyl]-4-methyl-benzamide
2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-methyl-benzoic acid was coupled with (±)-2-(4-chloro-phenyl)-propylamine as in EXAMPLE 1, Part C. HPLC: RT=10.22 min. MS (ESI−): mass calcd. for C23H21ClN4O3S2, 500.07; m/z found, 499 [M−H]−. 1H NMR (400 MHz, CDCl3): 11.48 (s, 1H), 8.31 (dd, J=7.0, 1.0, 1H), 8.18 (dd, J=8.8, 1.0, 1H), 7.67 (dd, J=8.8, 7.0, 1H), 7.47 (s, 1H), 7.33-7.27 (m, 2H), 7.16-7.10 (m, 2H), 6.90 (d, J=8.0, 1H), 6.71 (d, J=8.0, 1H), 5.75-5.70 (m, 1H), 3.73-3.62 (m, 1H), 3.30-3.21 (m, 1H), 3.05-2.94 (m, 1H), 2.26 (s, 3H), 1.30 (d, J=7.0, 3H).

reactant | 2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-methyl-benzoic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)O)C=CC(=C2)C | C14H11N3O4S2
reactant | (±)-2-(4-chloro-phenyl)-propylamine | ClC1=CC=C(C=C1)C(CN)C | C9H12ClN
product | (±)-2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-N-[2-(4-chloro-phenyl)-propyl]-4-methyl-benzamide | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)NCC(C)C1=CC=C(C=C1)Cl)C=CC(=C2)C | C23H21ClN4O3S2
